resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.986585
R2 0 n2 1.009087
R3 0 n4 0.993063
R4 n1 n3 0.992554
R5 n1 n5 1.019337
R6 n2 n3 1.010032
R7 n2 n6 0.994752
R8 n3 n7 1.019232
C9 n4 n5 2.27e-06
R10 n4 n6 0.999135
R11 n5 n7 0.999594
R12 n6 n7 1.011627
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r10[i] @r11[i] @r12[i]
.endc
.end
